US04030932
5-[(3-Chloro-2-ethylisoindol-1-yl)methylene]-3-ethylrhodanine
This dye was prepared by the interaction of 3-ethyl-rhodanine and 3-chloro-1-dimethylaminomethylene-2-ethyl-1H-isoindolium perchlorate in the presence of triethylamine. The dye after purification by recrystallization from methanol melted at 119° C. MeOH λ max 505 nm.

reactant | 3-ethyl-rhodanine | C(C)N1C(SCC1=O)=S | C5H7NOS2
reactant | 3-chloro-1-dimethylaminomethylene-2-ethyl-1H-isoindolium perchlorate | Cl(=O)(=O)(=O)[O-].ClC1=[N+](C(C2=CC=CC=C12)=CN(C)C)CC
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-[(3-Chloro-2-ethylisoindol-1-yl)methylene]-3-ethylrhodanine | ClC=1N(C(=C2C=CC=CC12)C=C1C(N(C(S1)=S)CC)=O)CC | C16H15ClN2OS2
